US04835166
5-(3-Phenylpropyl)amino-3,3-ethylenedioxy-2-oxindole
By reaction of 5-amino-3,3-ethylenedioxy-2-oxindole with 3-phenylpropanal using the procedure of Example 1, the title compound was prepared.

reactant | 5-amino-3,3-ethylenedioxy-2-oxindole | NC=1C=C2C3(C(NC2=CC1)=O)OCCO3 | C10H10N2O3
reactant | 3-phenylpropanal | C1(=CC=CC=C1)CCC=O | C9H10O
product | 5-(3-Phenylpropyl)amino-3,3-ethylenedioxy-2-oxindole | C1(=CC=CC=C1)CCCNC=1C=C2C3(C(NC2=CC1)=O)OCCO3 | C19H20N2O3
